* Back - annotated simulation file writtenby InductEx v .6.0.4 on 12 -3 -21.
* Author : L . Schindler
* Version : 2.1
* Last modification date : 3 June 2021
* Last modification by : L . Schindler
* $Ports a clk q
.subckt dff a q clk
.model jjmit jj (rtype =1, vg =2.8mV , cap=0.07pF , r0 =160 , rn =16 , icrit =0.1mA)
.param Phi0 =2.067833848 E-15
.param B0 =1
.param Ic0 =0.0001
.param IcRs =100u *6.859904418
.param B0Rs = IcRs / Ic0 * B0
.param Rsheet =2
.param Lsheet =1.13e-12
.param LP =0.2p
.param IC =2.5
.param LB =2p
.param BiasCoef =0.70

.param B1 =2.5
.param B2 =1.61
.param B3 =1.54
.param B4 =1.69
.param B5 =1.38
.param B6 =2.5
.param B7 =2.5

.param IB1 =175u
.param IB2 =173u
.param IB3 =175u
.param IB4 =175u

.param L1 = Phi0 /(4* IC * Ic0 )
.param L2 = Phi0 /(2* B1 * Ic0 )
.param L3 = Phi0 /( B3 * Ic0 )
.param L4 = Phi0 /(2* B6 * Ic0 )
.param L5 = Phi0 /(4* IC * Ic0 )
.param L6 = Phi0 /(2* B4 * Ic0 )
.param L7 = Phi0 /(4* B7 * Ic0 )
.param LB1 = LB
.param LB2 = LB
.param LB3 = LB
.param LB4 = LB
.param LP1 = LP
.param LP3 = LP
.param LP4 = LP
.param LP6 = LP
.param LP7 = LP
.param RB1 = B0Rs / B1
.param RB2 = B0Rs / B2
.param RB3 = B0Rs / B3
.param RB4 = B0Rs / B4
.param RB5 = B0Rs / B5
.param RB6 = B0Rs / B6
.param RB7 = B0Rs / B7
.param LRB1 =( RB1 / Rsheet ) * Lsheet
.param LRB2 =( RB2 / Rsheet ) * Lsheet
.param LRB3 =( RB3 / Rsheet ) * Lsheet
.param LRB4 =( RB4 / Rsheet ) * Lsheet
.param LRB5 =( RB5 / Rsheet ) * Lsheet
.param LRB6 =( RB6 / Rsheet ) * Lsheet
.param LRB7 =( RB7 / Rsheet ) * Lsheet

B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 5 6 jjmit area=B3
B4 8 9 jjmit area=B4
B5 10 8 jjmit area=B5
B6 11 12 jjmit area=B6
B7 14 15 jjmit area=B7

IB1 0 3 pwl (0 0 5p IB1 )
IB2 0 7 pwl (0 0 5p IB2 )
IB3 0 13 pwl (0 0 5p IB3 )
IB4 0 16 pwl (0 0 5p IB4 )

LB1 3 1 LB1
LB2 7 5 LB2
LB3 11 13 LB3
LB4 16 14 LB4

L1 a 1 2.059E-12
L2 1 4 4.123E-12
L3 5 8 6.873E-12
L4 10 11 5.195E-12
L5 clk 11 2.071E-12
L6 8 14 3.287E-12
L7 14 q 2.066E-12

LP1 2 0 5.042E-13
LP3 6 0 5.799E-13
LP4 9 0 5.733E-13
LP6 12 0 4.605E-13
LP7 15 0 4.961E-13

RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 5 LRB2
RB3 5 105 RB3
LRB3 105 0 LRB3
RB4 8 108 RB4
LRB4 108 0 LRB4
RB5 10 110 RB5
LRB5 110 8 LRB5
RB6 11 111 RB6
LRB6 111 0 LRB6
RB7 14 114 RB7
LRB7 114 0 LRB7
.ends